Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
anticoagulation management around liver biopsy
 
Major Surgical or Invasive Procedure:
liver biopsy ___
 
History of Present Illness:
___ female with h/o tricuspid valve replacement requiring 
chronic anticoagulation who is admitted for liver biopsy. In ___ 
of this year she developed abdominal pain. Workup eventually 
revealed cirrhosis and diffuse infiltration of her liver with 
masses. Imaging including CT and MRI was suggestive of HCC, and 
AFP was ___, but given that there is a differential 
diagnosis of diseases which would be treated very differently, 
it was recommended in liver tumor board that biopsy be pursued 
for definitive diagnosis. She requires careful anticoagulation 
management and has a history of quickly forming clots when off 
anticoagulation in the past, so she is admitted for close 
observation. 

She feels okay on admission but continues to have problems with 
abdominal distension. Can only eat small amounts at a time. Has 
not eaten since midnight as instructed. She has lower leg edema 
which has gotten worse. 

REVIEW OF SYSTEMS:  
(+) Per HPI  
(-) Denies fever, chills, night sweats. ++recent weight loss. 
Denies headache, rhinorrhea or congestion. Denies cough, 
+shortness of breath, +wheezing. Denies chest pain, chest 
pressure, or weakness. Denies nausea, vomiting, diarrhea, 
constipation. Denies dysuria, arthralgias or myalgias. Denies 
rashes or skin changes. All other ROS negative
 
Past Medical History:
PAST MEDICAL HISTORY:
1.  VSD, status post multiple repairs.  
2.  St. ___ valve in place, status post thrombosis.
3.  Back surgery for herniated disc.
4.  Cardiac cirrhosis.
5.  Atrial fibrillation.
 
Social History:
___
Family History:
FAMILY HISTORY:  
1.  Mother is well.  
2.  Father, hypertension.  
3.  Paternal uncle with diabetes.  
4.  Paternal uncle with colon cancer. 
 
Physical Exam:
Physical Examination:
VS: 98.7   103/50    84      18     93%RA 
GEN: Alert, oriented to name, place and situation. no acute 
signs of distress but appears chronically ill with upper body 
wasting, abdominal distension, leg edema
HEENT: NCAT, Pupils equal and reactive, sclerae mildly icteric, 
MMM.
Neck: Supple
CV: mechanical s2, reg rate and rhythm
RESP: decreased air movement bilaterally, no rhonchi, mild exp 
wheeze
ABD: firm, distended, tender to palpation in epigastrium, 
palpable liver edge 15cm below costal margin in midclavicular 
line
EXTR: 2+ pitting edema both legs with skin changes
DERM: some angiomata
Neuro: muscle strength grossly full and symmetric in all major 
muscle groups. muscle wasting
PSYCH: Appropriate and calm.

DISCHARGE PHYSICAL EXAM:
T 97.4  BP 104-116/40  HR 61  RR 16  96%RA.
GEN: Alert, sleeping comfortably in bed, arousable, pleasant
HEENT: Cclerae mildly icteric, MMM.
CV: mechanical/louder s2, reg rate and rhythm
RESP: decreased air movement bilaterally, no rhonchi. Crackles
throughout, though mild-moderate, nothing focal
ABD: firm, distended, tender to palpation in epigastrium,
palpable liver edge 15cm below costal margin. 
EXTR: 1+ pitting edema both legs with chronic venous stasis
changes

 
Pertinent Results:
==================================
              Labs
==================================
CBC/coags
___ 12:25PM BLOOD WBC-16.5*# RBC-3.86* Hgb-11.9* Hct-35.3* 
MCV-92 MCH-30.9 MCHC-33.7 RDW-15.4 Plt ___
___ 06:25AM BLOOD WBC-14.9* RBC-3.63* Hgb-11.1* Hct-34.4* 
MCV-95 MCH-30.6 MCHC-32.2 RDW-16.8* Plt ___
___ 12:25PM BLOOD ___ PTT-39.5* ___

CHEMISTRIES:
___ 12:25PM BLOOD Glucose-71 UreaN-11 Creat-0.5 Na-127* 
K-4.3 Cl-90* HCO3-27 AnGap-14
___ 06:25AM BLOOD Glucose-118* UreaN-13 Creat-0.4 Na-125* 
K-5.0 Cl-87* HCO3-29 AnGap-14
___ 06:25AM BLOOD UreaN-22* Creat-0.5 Na-128* K-4.7 Cl-91* 
HCO3-28 AnGap-14
___ 12:25PM BLOOD ALT-46* AST-215* LD(LDH)-283* 
AlkPhos-501* TotBili-5.6*
___ 06:25AM BLOOD ALT-54* AST-267* AlkPhos-483* 
TotBili-3.9*

IMAGING:
CXR ___
IMPRESSION:  
Status post cardiac surgery. Massive cardiomegaly.  No overt 
pulmonary edema.  New left PICC line shows a normal course. The 
tip projects over the mid to low SVC.  No pleural effusions. 

Liver biopsy ___ - prelim verbal report c/w hepatocellular 
carcinoma but final results pending in ___
 
Brief Hospital Course:
Assessment and Plan: ___ female with prosthetic valve requiring 
anticoagulation, liver cirrhosis and extensive infiltration with 
liver masses admitted for liver biopsy

# HCC: Immaging with extensive liver involvement of metastatic 
disease. Pt has h/o cirrhosis as below, and ___ confirmed on 
prelim biopsy ___. Started FOLFOX ___ and tolerated this 
well. PICC placed for chemo ___ and pulled prior to discharge 
with plan for her to have port placed as an outpatient. She has 
follow up with her oncologist ___. Sent home with prn zofran 
and compazine for nausea.

# Hyponatremia: Hypervolumic related to cirrhosis and end stage 
liver disease, asymptomatic. Initially her lasix was held and 
her hyponatremia worsened, nadiring at 125, but when her home 
dose 40mg daily lasix was restarted it began to improve. Sodium 
was stable in the mid-high 120s throughout. This may be new 
baseline for her. UNa <10 inconsistent with SIADH. She has 
follow up to have this rechecked later this week.

# Mechanical tricuspid valve: Chronically anticoagulated. 
Possible right atrial thrombus seen on CT chest ___. Was on 
warfarin at home but bridged with lovenox for liver biopsy as 
above. At this point, she will continue lovenox for 
anticoagulation indefinitely given that she will need to come in 
for port placement and be bridged again anyway, but moreover the 
multiple interactions between warfarin and chemotherapy make 
warfarin titration problematic in this setting. 
   
# Cirrhosis: Cardiac cirrhosis from congenital heart disease. 
Chronic, end stage liver disease with confirmed HCC on bx ___ 
on recent biopsy complicated by ascites, hyponatremia and portal 
hypertension. Pt has follow up in liver clinic for ___. It 
seems she would require EGD if not already done at another 
institution as there are no records of EGD in OMR. During this 
admission she had lower extremity edema in the setting of lasix 
discontinuation, which was improving at the time of discharge 
after lasix was restarted. 
   
# Transaminitis - Tbili newly elevated on admission (5.6) but 
was trending down slowly at the time of discharge though 
remained elevated (3.9). MRI liver showed no obstruction, and 
she is already on anticoagulation were there to be any 
thrombotic component at play (less likely given chronic 
anticoagulation). Likely this is related to extensive tumor 
involvement of the liver.  

# Leukocytosis - Pt presented with WBC up to 16 which remained 
stable throughout the admission and was discharged with WBC of 
14. There was nothing to suggest infection throughout her 
hospital course, no dysuria, fever, cough, pain, diarrhea. This 
was considered to be reactive in the setting of malignancy but 
she was instructed to call her doctor should any new symptoms 
develop.

# Atrial Fibrillation - continued digoxin, diltiazem, and pt on 
lovenox as above.
  
# COPD: Chronic, stable. Continued advair.
    
# Pain - continued oxycontin/oxycodone
  
TRANSITIONAL ISSUES:
Pt needs labs checked the week after discharge primarily for 
Na/electrolyte evaluation and also LFT trend.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 
2. Lorazepam 0.5-1 mg PO Q4H:PRN anxiety or insomnia 
3. HydrOXYzine 25 mg PO Q6H:PRN itching 
4. Diltiazem Extended-Release 180 mg PO DAILY 
5. Digoxin 0.25 mg PO Q12H 
6. Furosemide 40 mg PO DAILY 
7. OxyCODONE SR (OxyconTIN) 15 mg PO Q12H 
8. Fluticasone-Salmeterol Diskus (100/50) 1 INH IH BID 

 
Discharge Medications:
1. Digoxin 0.25 mg PO Q12H 
2. Diltiazem Extended-Release 180 mg PO DAILY 
3. Fluticasone-Salmeterol Diskus (100/50) 1 INH IH BID 
4. Furosemide 40 mg PO DAILY 
5. HydrOXYzine 25 mg PO Q6H:PRN itching 
6. Lorazepam 0.5-1 mg PO Q4H:PRN anxiety or insomnia 
7. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 
8. OxyCODONE SR (OxyconTIN) 15 mg PO Q12H 
9. Enoxaparin Sodium 80 mg SC BID 
Start: Today - ___, First Dose: Next Routine Administration 
Time 
10. Ondansetron 8 mg PO Q8H:PRN nausea 
RX *ondansetron 8 mg 1 tablet(s) by mouth every 8 hours as 
needed Disp #*24 Tablet Refills:*11
11. Prochlorperazine 10 mg PO Q6H:PRN nausea 
RX *prochlorperazine maleate 10 mg 1 tablet(s) by mouth every 6 
hours as needed Disp #*90 Tablet Refills:*11

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
Hepatocellular carcinoma

SECONDARY:
Hyponatremia
Cirrhosis
Transaminitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for biopsy of your liver. We stopped your 
warfarin and you are now taking lovenox for anticoagulation 
(blood thinning). The biopsy showed cancer of the liver and 
chemotherapy (called FOLFOX) was started on ___ which you 
tolerated well.

While you were here, your sodium was low. This is likely because 
your lasix was temporarily stopped and when we restarted this 
your sodium improved. Also, you had worsening fluid in your legs 
which was due to holding the lasix and when we restarted lasix 
that improved as well. You should continue your usual regimen of 
40mg po lasix daily at home. Weigh yourself daily and if you 
weight goes up more than 3 pounds and your legs appear 
significantly swollen, you may take an extra 20mg of PO lasix 
that day. Please call your doctor if you are needing to take the 
extra 20mg pill more than twice a week. Please continue to wear 
the compression stockings.

You will have a follow up appointment with Dr. ___ coming 
week. He will contact you with details.
 
Followup Instructions:
___